US06660728B2
a) (2S)-2-Amino-3-((5-(2-methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-propionic Acid tert-Butyl Ester Hydrochloride
6.85 g of 3-(5-(((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethyl)carbamoyl)-2-thienyl)-acrylic acid methyl ester (example 3, step a) were dissolved in 220 ml of methanol. 1.3 g of 10% palladium on charcoal and 2.8 ml of a 5N solution of hydrogen chloride in methanol were added and the hydrogenation was started. After 6 hours the pH was adjusted with 5N solution of hydrogen chloride in methanol to 3.5, and further 0.6 g of the catalyst were added. After 14 hours the hydrogenation was complete. The catalyst was removed by filtration. After standard work-up 4.88 g of the title compound were obtained.

reactant | 3-(5-(((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethyl)carbamoyl)-2-thienyl)-acrylic acid methyl ester | 6.85 g | COC(C=CC=1SC(=CC1)C(NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O)=O | C24H28N2O7S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 220 ml | CO | CH4O
catalyst | palladium on charcoal | 1.3 g | [Pd] | Pd
product | (2S)-2-Amino-3-((5-(2-methoxycarbonyl-ethyl)-thiophene-2-carbonyl)-amino)-propionic Acid tert-Butyl Ester Hydrochloride | 4.88 g | Cl.C(C)(C)(C)OC([C@H](CNC(=O)C=1SC(=CC1)CCC(=O)OC)N)=O | InChI=1S/C16H24N2O5S.ClH/c1-16(2,3)23-15(21)11(17)9-18-14(20)12-7-5-10(24-12)6-8-13(19)22-4;/h5,7,11H,6,8-9,17H2,1-4H3,(H,18,20);1H/t11-;/m0./s1
